US07414063B2
(4-chloro-2-propyl-phenoxy)-acetic acid methyl ester
Add 5% Pt/C sulfided (250 mg) to a stirred solution of (2-allyl-4-chloro-phenoxy)-acetic acid methyl ester (587 mg, 2.44 mmol) in EtOAc (10 mL) at ambient temperature under nitrogen. The mixture is flushed with hydrogen for 1 minute then stirred vigorously under hydrogen (balloon) for 1 hour. After filtration and concentration, 584 mg (100% yield) of the title compound is obtained as oil. EIMS: m/z 242 (M+, 35Cl), 244(M+, 37Cl). Analysis for C12H15ClO3: calcd: C, 59.39; H, 6.23; found: C, 59.01; H, 6.14.

reactant | (2-allyl-4-chloro-phenoxy)-acetic acid methyl ester | 2.44 mmol, 587 mg | COC(COC1=C(C=C(C=C1)Cl)CC=C)=O | C12H13ClO3
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pt/C | [Pt] | Pt
product | (4-chloro-2-propyl-phenoxy)-acetic acid methyl ester | 584 mg, 100% yield | COC(COC1=C(C=C(C=C1)Cl)CCC)=O | C12H15ClO3
